US08461346B2
484 mg (2 mmol) Diethyl(phenyloxomethyl)phosphonate and 2,2,2-trifluoroacetophenone are stirred in 3 ml DMF together with 14 mg (0.22 mmol) potassium cyanide for 3 hours (Demir et al. J. Org. Chem. 2005, 70, 10584-87). Direct chromatographic purification on silica gel (ethyl acetate in hexane 33%) yields 580 mg phosphoric acid (1-benzoyl-2,2,2-trifluoro-1-phenylethyl)diethyl ester. 250 mg (0.6 mmol) of the phosphoric acid ester are stirred for 18 hours in 10 ml diethyl amine and 1 ml water. Evaporation and flash chromatography on silica gel (ethyl acetate in hexane 33%) yield 80 mg 3,3,3-trifluoro-2-hydroxy-1,2-diphenylpropan-1-one. 80 mg (0.29 mmol) 3,3,3-trifluoro-2-hydroxy-1,2-diphenylpropan-1-one, 0.2 ml tetra t.-butyl othotitanate and 45 mg (0.29 mmol) 5-amino-2-methylquinolin are refluxed for 18 hours in 3 ml toluene and 0.1 ml acetic acid. The reaction mixture is poured into water after cooling and filtrated through a path of cellites after stirring for 15 minutes and diluting with ethyl acetate. The phases were separated and the aqueous layer was extracted twice with ethyl acetate, the combined organic phases washed with brine, dried over sodium sulphate and then evaporated to yield 90 mg of raw β-[(2-methylquinolin-5-yl)imino]-α-phenyl-α-(trifluoromethyl)benzeneethanol. To 30 mg of the raw imine in 2 ml methanol and 0.5 ml THF are added 20 mg sodium borohydride in two portions. The mixture is stirred over 2 hours, after that period quenched by addition of acetone and saturated ammonium chloride solution and diluted with ethyl acetate. The phases are separated and the aqueous layer is extracted twice with ethyl acetate, the combined organic phases washed with brine, dried over sodium sulphate and then evaporated. Preparative thin layer chromatography on silica gel (ethyl acetate in hexane 50%) yields 2 mg of the title compound and 8 mg of the starting material.

reactant | 3,3,3-trifluoro-2-hydroxy-1,2-diphenylpropan-1-one | 0.29 mmol, 80 mg | FC(C(C(=O)C1=CC=CC=C1)(C1=CC=CC=C1)O)(F)F | C15H11F3O2
reactant | 5-amino-2-methylquinolin | 0.29 mmol, 45 mg | NC1=C2C=CC(=NC2=CC=C1)C | C10H10N2
solvent | diethyl amine | 10 ml | C(C)NCC | C4H11N
solvent | water | 1 ml | O | H2O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | β-[(2-methylquinolin-5-yl)imino]-α-phenyl-α-(trifluoromethyl)benzeneethanol | 90 mg | CC1=NC2=CC=CC(=C2C=C1)N=C(C(O)(C(F)(F)F)C1=CC=CC=C1)C1=CC=CC=C1 | C25H19F3N2O
